US06225324B1
A solution of 1-(6-methoxypyrimidin4-yl)-4-piperidone ethylene ketal (1.38 g, 5.5 mmol) in acetone (25 ml) and 1 N HCl (25 ml) was stirred for 18 hr. The acetone was removed in vacuo and the mixture made basic with saturated sodium carbonate. The mixture was extracted twice with ethyl acetate. The extracts were combined, dried with brine, and concentrated in vacuo to give 1-(6-methoxypyrimidin-4-yl)-4-piperidone as a white powder (0.95 g, 83.5%, mp: 111-114° C.).

reactant | 1-(6-methoxypyrimidin4-yl)-4-piperidone ethylene ketal | 5.5 mmol, 1.38 g | C1COC2(CCN(CC2)C2=NC=NC(=C2)OC)O1 | C12H17N3O3
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | HCl | 1 N, 25 ml | Cl | ClH
product | 1-(6-methoxypyrimidin-4-yl)-4-piperidone | 0.95 g, 83.5% | COC1=CC(=NC=N1)N1CCC(CC1)=O | C10H13N3O2
